US08404663B2
3-({4-[3-(3-chlorophenyl)-4-(3,4-dimethylphenyl)but-1-yn-1-yl]benzyl}amino)propanoic acid
To a solution of tert-butyl 3-((4-[3-(3-chlorophenyl)-4-(3,4-dimethylphenyl)but-1-yn-1-yl)benzyl)amino)propanoate in CH2Cl2 (10 mL) was added TFA (1 mL) at room temperature and the mixture was stirred at room temperature for 16 h. The mixture was evaporated under reduced pressure. The residue was diluted with CH2Cl2:MeOH and the mixture was neutralized with NH3:MeOH silica gel was added, concentrated to dryness, then purified by MPLC using MeOH:CH2Cl2 and Compound 3 (129 mg).

reactant | tert-butyl 3-((4-[3-(3-chlorophenyl)-4-(3,4-dimethylphenyl)but-1-yn-1-yl)benzyl)amino)propanoate | ClC=1C=C(C=CC1)C(C#CC1=CC=C(CNCCC(=O)OC(C)(C)C)C=C1)CC1=CC(=C(C=C1)C)C | C32H36ClNO2
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-({4-[3-(3-chlorophenyl)-4-(3,4-dimethylphenyl)but-1-yn-1-yl]benzyl}amino)propanoic acid | ClC=1C=C(C=CC1)C(C#CC1=CC=C(CNCCC(=O)O)C=C1)CC1=CC(=C(C=C1)C)C | C28H28ClNO2
